US08748648B2
Synthesis of PEG-Verapamil—“Approach A” Schematic
In carrying out this synthesis, the following materials were used. Homovanillyl alcohol, Aldrich, 99%, Cat. No. 148830-10G, Batch No. 19516EO; potassium carbonate, Aldrich, 99%; triethylamine, Aldrich, 99.5%, Cat. No. 471283-500 mL, Batch No. 04623HD; methanesulfonyl chloride, Aldrich, 99.5%, Cat. No. 471259-500 mL, Batch No. 13209KC; 3,4-dimethoxyphenylacetonitrile, Aldrich, Cat. No. 126349-100G, Batch No. 08011BD; 2-iodopropane, Aldrich, 99%, Cat. No. 148938-100G, Batch #, 03604DD; diisopropylamine, redistilled, Aldrich, 99.95%, Cat. No. 386464-100 mL, Batch #00944TD; butyllithium, 1.6 M solution in hexanes, Aldrich, Cat. No. 186171-100 mL, Batch #20709PD; 3-bromo-1-propanol, Aldrich, 97%, Cat. No. 167169-25G, Batch No. 0901DE; dichloromethane, Aldrich, Cat. No. 270997-2L, Batch #: 00434 KD; sodium triacetoxyborohydride, Aldrich, 95%, Cat. No. 316393-25G, Batch No. 07920LD; N,N-diisopropylethylamine, Aldrich, Cat. No. 387649-100 mL, Batch No. 06448PC.

reactant | Homovanillyl alcohol | C(CC1=CC(OC)=C(O)C=C1)O | C9H12O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,4-dimethoxyphenylacetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | Verapamil | CC(C)C(CCCN(C)CCC=1C=CC(=C(C1)OC)OC)(C#N)C=2C=CC(=C(C2)OC)OC | C27H38N2O4
